* Example of transient analysis
I1 0 1 8
R1 1 0 5
R2 1 2 5
L1 2 0 2m
C1 2 0 5u
R3 2 3 3
L2 3 0 4m
C3 3 0 7u
.tran 1u 1.2m
.plot v(C1) i(C1) v(R1) i(R1)